US07897597B2
N-{2-[4-Amino-8-(benzyloxy)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}cyclohexanecarboxamide (1.25 g, 2.36 mmol) was dissolved in 40 mL of ethanol and 10% palladium on carbon (0.58 g) was added. The mixture was shaken overnight under 50 psi (3.4×105 Pa) of hydrogen. An additional 0.21 g of 10% palladium on carbon was added and the reaction was shaken under 50 psi (3.4×105 Pa) of hydrogen for three more hours. The reaction was filtered through CELITE filter agent, and the filter cake was washed with 100 mL of ethanol. The filtrate was concentrated under reduced pressure. The resulting off white solid was purified by column chromatography on a HORIZON HPFC system. A silica gel cartridge was used eluting with a gradient of 10-30% CMA in chloroform to provide 0.56 g of N-{2-[4-amino-8-hydroxy-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}cyclohexanecarboxamide as a white powder, m.p. 231-232° C.

reactant | N-{2-[4-Amino-8-(benzyloxy)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}cyclohexanecarboxamide | 2.36 mmol, 1.25 g | NC1=NC=2C=CC(=CC2C2=C1N=C(N2CC(C)(C)NC(=O)C2CCCCC2)COCC)OCC2=CC=CC=C2 | C31H39N5O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.58 g | [Pd] | Pd
catalyst | palladium on carbon | 0.21 g | [Pd] | Pd
product | N-{2-[4-amino-8-hydroxy-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}cyclohexanecarboxamide | 0.56 g | NC1=NC=2C=CC(=CC2C2=C1N=C(N2CC(C)(C)NC(=O)C2CCCCC2)COCC)O | C24H33N5O3
